US07829707B2
1-[(5-Chloro-1H-indol-2-yl)methyl]-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one
5-Chloro-1H-indole-2-carbaldehyde (0.15 g, 0.76 mmol), NaCNBH3 (0.040 g, 0.63 mmol) and Et3N (0.088 mL, 0.63 mmol) was added to a stirred solution of 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester hydrochloride (0.12 g, 0.63 mmol) in methanol (3 mL). The resulting mixture was stirred at r.t. overnight. The reaction mixture was heated to 50° C. Additional NaCNBH3 (0.5 equiv.) was added and the mixture was stirred at 50° C. for 3 h. A few drops of HOAc was added, and after 1 h the reaction mixture was cooled to r.t. and was concentrated in vacuo. The residue was dissolved in CH2Cl2 (2 mL) and methanol (2 mL). Benzoyl isothiocyanate (0.093 mL, 0.69 mmol) was added and after stirring at r.t. for 1 h the mixture was concentrated in vacuo. The residue was dissolved in ammonia (7N in methanol, 3 mL) and heated at 80° C. for 2 h. The precipitated product was filtered and washed through with methanol and diethyl ether, followed by purification by preparative HPLC, obtaining 0.063 g (30%) of the title compound as a solid.

reactant | 5-Chloro-1H-indole-2-carbaldehyde | 0.76 mmol, 0.15 g | ClC=1C=C2C=C(NC2=CC1)C=O | C9H6ClNO
reactant | NaCNBH3 | 0.63 mmol, 0.040 g | [BH3-]C#N.[Na+]
reactant | Et3N | 0.63 mmol, 0.088 mL | CCN(CC)CC | C6H15N
reactant | 3-amino-1H-pyrrole-2-carboxylic acid ethyl ester hydrochloride | 0.63 mmol, 0.12 g | Cl.C(C)OC(=O)C=1NC=CC1N
reactant | NaCNBH3 | 0.5 equiv. | [BH3-]C#N.[Na+]
reactant | Benzoyl isothiocyanate | 0.69 mmol, 0.093 mL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | methanol | 3 mL | CO | CH4O
catalyst | HOAc | A few drops | CC(=O)O | C2H4O2
product | 1-[(5-Chloro-1H-indol-2-yl)methyl]-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one | 0.063 g, 30% | ClC=1C=C2C=C(NC2=CC1)CN1C(NC(C2=C1C=CN2)=O)=S | C15H11ClN4OS
